US06846819B1
a) Ethyl 5-fluoro-1-methyl-1H-indole-2-carboxylate
According to the procedure of Preparation 1(a), except substituting ethyl 5-fluoro-indole-2-carboxylate for the ethyl-indole-2-carboxylate, the title compound (3.3 g, 100%) was prepared as a white solid: MS (ES) m/e 222 (M+H)+.

reactant | ethyl 5-fluoro-indole-2-carboxylate | FC=1C=C2C=C(NC2=CC1)C(=O)OCC | C11H10FNO2
reactant | ethyl-indole-2-carboxylate | C(C)OC(=O)C=1NC2=CC=CC=C2C1 | C11H11NO2
product | Ethyl 5-fluoro-1-methyl-1H-indole-2-carboxylate | 3.3 g, 100% | FC=1C=C2C=C(N(C2=CC1)C)C(=O)OCC | C12H12FNO2
